US07875715B2
Intermediate 109: (2-Amino-4-methoxyphenyl)methanol
To a solution of commercially available 4-methoxy-2-nitrobenzoic acid (4.0 g, 20.66 mmol) in tetrahydrofuran (20 mL) at −15° C. under nitrogen was added N-methylmorphorine (2.2 ml, 20 mmol) followed by isobutyl chloroformate (2.6 mL, 20 mmol) in portions. After 5 min, the reaction was filtered and the solid was rinsed with tetrahydrofuran (20 mL). The filtrate was cooled to −15° C. and a solution of sodium borohydride in water (3 M, 10 mL) was added to the filtrate. The reaction was stirred for 5 min. The reaction mixture was partitioned between water and dichloromethane, and extracted aqueous layer with dichloromethane (3×100 mL). The combined organic layers were washed with brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was redissolved in tetrahydrofuran (35 mL) and added palladium (10% on carbon, 400 mg) and stirred under hydrogen gas for 18 hours. The reaction mixture was then filtered through celite and concentrated under reduced pressure. The residue was chromatographed on silica gel with hexanes/ethyl acetate (3:2) gave 744 mg (24% yield) of product as a yellow solid.

reactant | 4-methoxy-2-nitrobenzoic acid | 20.66 mmol, 4.0 g | COC1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C8H7NO5
reactant | isobutyl chloroformate | 20 mmol, 2.6 mL | ClC(=O)OCC(C)C | C5H9ClO2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | (2-Amino-4-methoxyphenyl)methanol | 744 mg, 24% yield | NC1=C(C=CC(=C1)OC)CO | C8H11NO2
